US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-{[methyl(1-methylethyl)amino]methyl}-3-thienyl)-1H-indole-7-carboxamide
To 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (400 mg, 1.08 mmol) in dioxane and water (4 mL/1 mL) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde (462 mg), Pd(PPh3)4 (100 mg) and K2CO3 (447 mg). The reaction mixture was heated to 150° C. for 20 minutes in microwave. The organic phase was concentrated and redissolved in DMSO (10 mL). The resulting solution was split to eight. NaBH3CN (30 mg), ZnCl2 (30 mg) and N-methyl-2-propanamine (50 mg) were added. The mixture was heated at 100° C. for 30 minutes which was then filtered and purified by HPLC with TFA to afford the title compound (12 mg).

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 1.08 mmol, 400 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 462 mg | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
reactant | K2CO3 | 447 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-{[methyl(1-methylethyl)amino]methyl}-3-thienyl)-1H-indole-7-carboxamide | 12 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)CN(C(C)C)C)C(=O)N)=O | C23H29N3O3S2
